US09085523B2
methyl(4-pentadecylphenyl)carbamate (Compound 7)
To the solution of 4-pentadecanylaniline (3.4 g) in dichloromethane (60 mL), methyl chloroformate (1.1 mL) and the solution of potassium carbonate (7.8 g) in water (110 mL) were added at 0° C., followed by stirring at room temperature for 14 hours. The reaction solution was poured to water, followed by extraction with dichloroethane. The organic layer was washed sequentially with 2N hydrochloric acid, water and an aqueous saturated sodium chloride solution, and dried with anhydrous magnesium sulfate. The reaction solution was concentrated under reduced pressure to obtain the title compound (3.9 g) having the following physical property values.

reactant | 4-pentadecanylaniline | 3.4 g | C(CCCCCCCCCCCCCC)C1=CC=C(N)C=C1 | C21H37N
reactant | potassium carbonate | 7.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | methyl chloroformate | 1.1 mL | ClC(=O)OC | C2H3ClO2
solvent | water | 110 mL | O | H2O
product | methyl(4-pentadecylphenyl)carbamate | 3.9 g | COC(NC1=CC=C(C=C1)CCCCCCCCCCCCCCC)=O | C23H39NO2
